US07989633B2
Propyl 2,6-dimethyl-5-(4-methylbenzoyl)-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydro-pyridine-3-carboxylate
100 mg (0.53 mmol) of 2-methyl-4-oxo-4H-chromene-8-carbaldehyde are dissolved with 76 mg (0.53 mmol) of n-propyl 3-oxobutanoate, 93 mg (0.24 mmol) of 3-amino-1-(4-methylphenyl)but-2-en-1-one and 3 μl (0.05 mmol) of acetic acid in 5 ml of 2-propanol and heated under reflux under argon for 30 h. The solvent is removed in vacuo, and the residue is purified by preparative HPLC. 173 mg (69% of theory) of the title compound are obtained as a yellow solid.

reactant | 2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 0.53 mmol, 100 mg | CC=1OC2=C(C=CC=C2C(C1)=O)C=O | C11H8O3
reactant | n-propyl 3-oxobutanoate | 0.53 mmol, 76 mg | O=C(CC(=O)OCCC)C | C7H12O3
reactant | 3-amino-1-(4-methylphenyl)but-2-en-1-one | 0.24 mmol, 93 mg | NC(=CC(=O)C1=CC=C(C=C1)C)C | C11H13NO
reactant | acetic acid | 0.05 mmol, 3 μl | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 5 ml | CC(C)O | C3H8O
product | Propyl 2,6-dimethyl-5-(4-methylbenzoyl)-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydro-pyridine-3-carboxylate | CC=1NC(=C(C(C1C(=O)OCCC)C=1C=CC=C2C(C=C(OC12)C)=O)C(C1=CC=C(C=C1)C)=O)C | C29H29NO5
